US05250548
2-[4-Methylphenoxy]benzoic acid, prepared as described by D. J. Carini in J. Medicinal Chem., 33, 1330- (1990), is converted to the corresponding acid chloride with phosphorous trichloride in benzene. The acid chloride is reacted with ammonia to give 2-(4-methylphenoxy)-benzenecarboxamide. The carboxamide is then dehydrated by treatment with thionyl chloride to give 2-(4'-methylphenoxy)benzonitrile.

reactant | 2-[4-Methylphenoxy]benzoic acid | CC1=CC=C(OC2=C(C(=O)O)C=CC=C2)C=C1 | C14H12O3
reactant | phosphorous trichloride | P(Cl)(Cl)Cl | Cl3P
reactant | ammonia | N | H3N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-(4-methylphenoxy)-benzenecarboxamide | CC1=CC=C(OC2=C(C=CC=C2)C(=O)N)C=C1 | C14H13NO2
